plaintext
* SPICE netlist for the given schematic
VDD VDD 0 DC 5V

* Resistors
RS 2 1 1k
RD VDD 3 1k

* Capacitor
CF 3 Vout 10pF

* NMOS transistor
M1 3 2 0 0 NMOS_MODEL

* Voltage source
VDD_1 VDD 0 5V

* Input voltage
VIN 1 0 SIN(0 1V 1kHz)

* NMOS model (example parameters)
.model NMOS_MODEL NMOS (LEVEL=1 VTO=1 KP=2E-5)

.end